Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ y/o F with a past medical history of CML status 
post autologous stem cell transplant in ___ complicated by 
graft versus host disease of the skin, GI tract and liver, 
recent episode of respiratory failure requiring intubation in 
___, on Voriconazole for Paecilomyces recovered 
from BAL specimen, now admitted for further evaluation of 
shortness of breath.

The patient was last seen in ___ clinic on 
___ and complained of a two day history of sore throat 
followed by a cough, congestion, and rhinorrhea.  She had 
yellowish-green sputum at that time.  A decision was made to 
treat her with a five day course of Azithromycin.  Her 
Prednisone was also increased from 30mg ___ to 40mg ___ for 
two days and then decreased to 30mg ___.  The patient says she 
did not feel much improvement on Azithromycin.  She started to 
experience increased dyspnea on exertion and became concerned.  
She denies fevers, chills, nausea, vomiting, diarrhea, chest 
pain, or new rash.  She has had a decrease in appetite and 
cough.

The patient as seen again on ___ in ___ 
clinic where she underwent Respiratory viral screen.  She had 
one set of blood cultures drawn and was given a dose of 
levofloxacin in clinic.  Due to ongoing shortness of breath, the 
she was admitted for further work up.    

The patient thinks her husband had the "sniffles" and a cough a 
few weeks ago.  

 
Past Medical History:
ONCOLOGIC HISTORY:  
- ___: Bone marrow biopsy showed myeloproliferative  
disorder, likely chronic myelogenous leukemia. Per patient  
report, began taking interferon three times weekly shortly  
after diagnosis.  
- ___: Started ___ 400 mg ___. At some point  
thereafter, her dose was increased to 600 mg ___  
- ___: ___ increased to 400 mg twice ___ with  
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be  

in late chronic phase CML. Stem cell transplant was  
recommended, but she did not wish to pursue this course.  
- ___: Gleevec held due to worsening anemia and  
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on  
Dasatinib  
- ___: First seen at ___. Bone marrow biopsy showed  
accelerated phase CML. began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +32. Transplant complicated by  
mucositis with biopsy of the esophagus suggesting upper GI GVHD  

which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper 
and
lower GI tract in the setting of reducing immunosuppression  
  
PMHx:  
- atherosclerotic coronary vascular disease  
- status post CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___  

 
Social History:
___
Family History:
Father - died of MI, no other health problems
Mother - had heart problems, DM

 
Physical Exam:
admission exam 
Vitals - T: 96 BP: 141/92 HR: 97 RR: 18 02 sat: 94% 2L 
GENERAL: NAD  
SKIN: warm and well perfused, multiple healing skin lesion on 
both arm 
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
slight proptosis, patent nares, MMM, good dentition, nontender 
supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no mrg  
LUNG: CTA at apices of lungs, with diffuse rhonchi in mid and 
lower back R>L
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
M/S: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities  
PULSES: 1+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ strength in the lower extremities
. 
discharge exam 
VS: 96.0 131/68 (127/68-136/67) 83 (79-95) 18 99% RA
GEN: comfortable in NAD 
HEENT: AT/NC, anicteric sclera, MMM
CARDIAC: RRR, S1/S2, no mrg  
LUNG: scattered crackles throughout worse on right than left
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
M/S: moving all extremities well, no cyanosis, clubbing or edema
PULSES: 1+ DP pulses bilaterally  
NEURO: awake, A&Ox3. 
SKIN: warm and well perfused

 
Pertinent Results:
admission labs: 
___ 02:00PM BLOOD WBC-9.3# RBC-3.95* Hgb-14.0 Hct-39.9 
MCV-101* MCH-35.5* MCHC-35.2* RDW-17.0* Plt ___
___ 02:00PM BLOOD Neuts-89.0* Lymphs-6.5* Monos-4.0 Eos-0.1 
Baso-0.5
___ 02:00PM BLOOD ___
___ 02:00PM BLOOD UreaN-40* Creat-1.0 Na-137 K-5.4* Cl-104
___ 02:00PM BLOOD ALT-151* AST-122* LD(LDH)-503* 
CK(CPK)-136 AlkPhos-218* TotBili-0.4
.
discharge labs
___ 06:50AM BLOOD WBC-6.9# RBC-3.51* Hgb-11.7* Hct-36.0 
MCV-103* MCH-33.4* MCHC-32.6 RDW-16.7* Plt ___
___ 06:50AM BLOOD Neuts-75* Bands-0 Lymphs-10* Monos-4 
Eos-0 Baso-0 ___ Metas-8* Myelos-3* NRBC-1*
___ 06:50AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-3+ Microcy-OCCASIONAL Polychr-1+ Schisto-1+ Tear Dr-1+
___ 06:50AM BLOOD ___ PTT-28.8 ___
___ 06:50AM BLOOD Glucose-100 UreaN-20 Creat-0.6 Na-142 
K-4.1 Cl-110* HCO3-19* AnGap-17
___ 06:50AM BLOOD ALT-53* AST-39 AlkPhos-107* TotBili-0.4
___ 06:50AM BLOOD Calcium-8.1* Phos-2.3* Mg-1.7
. 
micro
   Respiratory Viral Antigen Screen (Final ___: 
      Positive for Respiratory viral antigens. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to Respiratory Virus Identification for further 
information. 

   Respiratory Virus Identification (Final ___: 
      POSITIVE FOR RESPIRATORY SYNCYTIAL VIRUS (RSV). 
         Viral antigen identified by immunofluorescence. 
         Reported to and read back by ___ 11:17AM 
___. 
.
blood culture - no growth
urine legionella - negative
sputum ___
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 
   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).. 
   FUNGAL CULTURE (Preliminary): 
      PENICILLIUM SPECIES. 
.
studies:
CT chest ___
IMPRESSION:
1. Multifocal pneumonia, worst at the right upper lobe.
2. Cholelithiasis.
.
RUQ ultrasound
1. No evidence of biliary obstruction.
2. Coarsened liver, reflecting underlying diffuse disease such 
as GVHD. Other
forms of liver disease cannot be excluded. Unchanged 
subcentimeter left
hepatic cyst.
3. Punctate gallstone, without acute cholecystitis.
 
Brief Hospital Course:
___ year old woman with a history of CML s/p allo stem cell 
transplant in ___ complicated by GVHD and pulmonary 
Paecilomyces infection who presented with several days of new 
cough found to be RSV positive.  
.
# Dyspnea - Patient presented with SOB which worsened despite 
treatment with azithromycin. CT chest showed evidence of 
multifocal pneumonia. She was initially started on levofloxacin 
and vancomycin. The infectious disease team was consulted. 
Respiratory viral screen returned positive for RSV. Patient was 
treated with Palivizumab. Antibiotics were discontinued. 
Respiratory symptoms improved. Patient was discharged with plans 
to treat cough and nasal congestion symptomatically and follow 
up with her hematologist/oncologist and infectious disease 
specialist as scheduled. 
.
# GVHD: continued Azathioprine, cyclosporine, prednisone. Her 
prednisone dose was increased to 40 mg during the week of 
admission. It was tapered down to 30 mg ___ at time of 
discharge. 
.
# History of Paecilomyces Pulmonary Infection: Patient's 
voriconazole was changed to posaconazole given concern that it 
may be contributing to elevated LFTs. 
.
# History of DVT: Patient on Coumadin. INR fluctuated likely in 
the setting of many medication changes. Patient was discharged 
with alternating doses of 5 mg and 2.5 mg ___. She has plans 
to have her INR checked on ___ at her PCP's office.  
.
# Hypertension: continued home dose Metoprolol, Captopril, and 
amlodipine
.
# History of Clostridium difficile colitis: continued oral 
Vancomycin at prophylactic dosing
.
# Infection Prophylaxis - Continued Bactrim and acyclovir
.
Transitional Issues: 
- no labs pending at time of discharge
- patient's INR will need close monitoring and Coumadin dose 
will likely need further adjustment 
- patient full code on this admission

 
Medications on Admission:
Medications: RECONCILED
Acyclovir 400mg BID
amlodipine 5mg ___
Azathioprine 100mg ___
Azithromycin 250mg ___ (switched to levo in clinic)
Captopril 12.5mg TID
Cyclosporine 50mg BID
Lansoprazole 30mg ___
Metoprolol 100mg TID
Oxycodone 5mg ___ q 6 prn pain
Prednisone 30mg ___
SS Bactrim ___
Oral Vancomycin 250mg BID
Voriconazole 200mg BID
Coumadin 2.5mg ___ (I increased since subtherapeutic)
calcium carbonate 500mgTID
magnesium 133mg BID  

 
Discharge Medications:
1. posaconazole 200 mg/5 mL (40 mg/mL) Suspension Sig: Four 
Hundred (400) mg ___ Q12 () for 1 months.
Disp:*QS QS* Refills:*0*
2. acyclovir 400 mg Tablet Sig: One (1) Tablet ___ Q12H (every 12 
hours).  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet ___.  

4. azathioprine 50 mg Tablet Sig: Two (2) Tablet ___ QPM (once a 
day (in the evening)).  
5. captopril 12.5 mg Tablet Sig: One (1) Tablet ___ TID (3 times 
a day).  
6. cyclosporine modified 25 mg Capsule Sig: Two (2) Capsule ___ 
Q12H (every 12 hours).  
7. lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
8. oxycodone 5 mg Tablet Sig: ___ Tablets ___ Q6H (every 6 hours) 
as needed for pain.  
9. prednisone 10 mg Tablet Sig: Three (3) Tablet ___ 
(___).  
10. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet ___.  
11. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: Three (3) Tablet Extended Release 24 hr ___ once a day.  
12. vancomycin 250 mg Capsule Sig: One (1) Capsule ___ BID (2 
times a day).  
13. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable ___ TID (3 times a day).  
14. warfarin 2.5 mg Tablet Sig: ___ Tablets ___ once a day: 
please take as directed. alternate 5 mg with 2.5 mg ___ .  
15. magnesium oxide-Mg AA chelate 133 mg Tablet Sig: One (1) 
Tablet ___ twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis: Respiratory syncytial virus (RSV)
secondary diagnoses: chronic myelogenous leukemia, deep venous 
thrombosis, graft versus host disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
.
It was a pleasure caring for you while you were admitted to 
___. You were admitted because you were having shortness of 
breath that was not improving with azithromycin. You had a 
number of studies done which showed a viral infection called 
RSV. You were evaluated by the infectious disease team and 
treated with Palivizumab for your illness and clinically 
improved. 
.
The following changes have been made to your medication regimen. 

Please START taking
- posaconazole 
. 
Please STOP taking
- voriconazole
. 
Please CHANGE 
- prednisone to 30 mg ___
- coumadin to be alternating doses of 5 mg or 2.5 mg ___ 
.
Please have your INR checked on ___ at your PCP's office. 

. 
Please take the rest of your medications as prescribed and 
follow up with your doctors as ___. 
 
Followup Instructions:
___